US09102682B2
To benzyl N-[1-(azidomethyl)-2-methyl-propyl]carbamate 6.9 g (0.0263 mole) in THF (100 mL) was added triphenyl phosphine 7.59 g (1.1 eq). The contents were stirred for 20 hrs. After addition of water (10 mL), and stirring for an additional 6 hrs, ethyl acetate was added and the layers separated. After drying with magnesium sulfate and concentration under vacuum, the crude product was columned using DCM/MeOH (0-10%) to afford benzyl N-[1-(aminomethyl)-2-methyl-propyl]carbamate as a yellow oil.

reactant | benzyl N-[1-(azidomethyl)-2-methyl-propyl]carbamate | 0.0263 mole, 6.9 g | N(=[N+]=[N-])CC(C(C)C)NC(OCC1=CC=CC=C1)=O | C13H18N4O2
reactant | triphenyl phosphine | 7.59 g, 1.1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 10 mL | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | benzyl N-[1-(aminomethyl)-2-methyl-propyl]carbamate | NCC(C(C)C)NC(OCC1=CC=CC=C1)=O | C13H20N2O2
